trab 3


.options savecurrents


.model DMOD D

VIN 5 0 dc 1 ac 14.2 SINE(0 14.2 314 0 0 0)

*full wave rectifier
D1 5 1 DMOD
D2 1 5 DMOD
D3 0 2 DMOD
D4 2 0 DMOD

D5 1 3 DMOD
R1 3 2 30k
C1 3 2 30u
R2 3 4 30k

D6 4 6 DMOD
D7 6 7 DMOD
D8 7 2 DMOD

*C2 4 6 1u
*C3 6 7 1u
*C4 2 8 1u
*C5 8 9 1u

*D11 2 6 DMOD
*D12 6 8 DMOD
*D13 8 7 DMOD
*D14 7 9 DMOD

RZe 4 2 1k

.op


.control

echo "********************************************"
echo "Transient analysis"
echo "********************************************"
tran 1e-4 20e-3

hardcopy zauzau.ps v(3)-v(2)
echo zauzau_FIG


.endc

.end